US08071588B2
1,1-Dimethylethyl 4-[(3-bromophenyl)methylidene]-1-piperidinecarboxylate
To diethyl[(3-bromophenyl)methyl]phosphonate (100 g, 326 mmol) in a 2 L 3-neck flask with mechanical stirrer was added tetrahydrofuran (THF) (700 mL) followed by 1,1-dimethylethyl 4-oxo-1-piperidinecarboxylate (71.4 g, 358 mmol) and potassium tert-butoxide (38.4 g, 342 mmol), portion-wise with ice-bath cooling to keep the temperature between 20° C. and 25° C. The mixture became more orange and was then stirred at room temperature under nitrogen. Some material was present as a suspension and it was slightly more viscous. Another 3.8 g (0.1 eq) of potassium tert-butoxide was added. After 1.25 h the mixture had practically gelled: an extra 150 mL of THF were added. The mixture was partitioned between water and ethyl acetate and the aqueous layer extracted well with ethyl acetate. The combined organics were washed with water, brine, dried (MgSO4), filtered and evaporated to give a pale yellow oil, 120.73 g. The crude product was purified on a 750 g Companion XL silica cartridge, eluting with 0-25% ethyl acetate in cyclohexane over 8 column volumes. This gave a colorless oil which became a white solid, 94.68 g (83%). HPLC 2.97 min (ret time), 99.5%; LC-MS m/z 352,354 (M+H)+, 3.96 min (ret time).

reactant | diethyl[(3-bromophenyl)methyl]phosphonate | 326 mmol, 100 g | C(C)OP(OCC)(=O)CC1=CC(=CC=C1)Br | C11H16BrO3P
reactant | 1,1-dimethylethyl 4-oxo-1-piperidinecarboxylate | 358 mmol, 71.4 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | potassium tert-butoxide | 342 mmol, 38.4 g | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 3.8 g, 0.1 eq | CC(C)([O-])C.[K+]
solvent | THF | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 700 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 4-[(3-bromophenyl)methylidene]-1-piperidinecarboxylate | BrC=1C=C(C=CC1)C=C1CCN(CC1)C(=O)OC(C)(C)C | C17H22BrNO2
